US07648984B2
(f) 1,1-dimethylethyl (2-aminoethyl){1-[6-(methyloxy)-1,5-naphthyridin-4-yl]-3-pyrrolidinyl}carbamate
To a solution of 1,1-dimethylethyl {1-[6-(methyloxy)-1,5-naphthyridin-4-yl]-3-pyrrolidinyl}{2-[(trifluoroacetyl)amino]ethyl}carbamate (1.8 g, 3.65 mmol) in MeOH/H2O (75 mL, 2:1) was added K2CO3 (2.52 g, 18.25 mmol). After 12 h at 25° C., the reaction was concentrated under reduced pressure and purified via column chromatography [silica, 5% MeOH in DCM (2% NH4OH)] affording the title compound (1.24 g, 88%) as an off-white solid: LC/MS (ES) m/e 388 (M+H)+.

reactant | 1,1-dimethylethyl {1-[6-(methyloxy)-1,5-naphthyridin-4-yl]-3-pyrrolidinyl}{2-[(trifluoroacetyl)amino]ethyl}carbamate | 3.65 mmol, 1.8 g | COC=1N=C2C(=CC=NC2=CC1)N1CC(CC1)N(C(OC(C)(C)C)=O)CCNC(C(F)(F)F)=O | C22H28F3N5O4
reactant | K2CO3 | 18.25 mmol, 2.52 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH H2O | 75 mL | CO.O
product | 1,1-dimethylethyl (2-aminoethyl){1-[6-(methyloxy)-1,5-naphthyridin-4-yl]-3-pyrrolidinyl}carbamate | 1.24 g, 88% | NCCN(C(OC(C)(C)C)=O)C1CN(CC1)C1=CC=NC2=CC=C(N=C12)OC | C20H29N5O3
